US20010009911A1
Step 1: Indolin-1-ylcarbonyl chloride
22.5 mmol of diphosgene dissolved in 90 ml of dichloromethane are cooled to 0° C.; there are then added 45 mmol of indoline, and then 67.5 mmol of triethylamine, while maintaining the temperature at 0° C. After 12 hours at ambient temperature, the mixture is filtered and the filtrate is concentrated under reduced pressure.

reactant | diphosgene | 22.5 mmol | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | indoline | 45 mmol | N1CCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 67.5 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | Indolin-1-ylcarbonyl chloride | N1(CCC2=CC=CC=C12)C(=O)Cl | C9H8ClNO
